US06235911B1
Synthesis of ethyl 2-cyano-3-hydroxy-4,4,5,5,5-pentafluoro-2-pentenoate
To 20 ml of tetrahydrofuran, 3.39 g (30 mmol) of ethyl cyanoacetate and 6.06 g (60 mmol) of triethylamine were dissolved and stirred at room temperature. Successively, 5.47 g (30 mmol) of pentafluoropropionyl chloride was dropwise added and stirred for 5 hours at room temperature. However, formation of desired product could not be confirmed.

reactant | ethyl cyanoacetate | 30 mmol, 3.39 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | triethylamine | 60 mmol, 6.06 g | C(C)N(CC)CC | C6H15N
reactant | pentafluoropropionyl chloride | 30 mmol, 5.47 g | FC(C(=O)Cl)(C(F)(F)F)F | C3ClF5O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 2-cyano-3-hydroxy-4,4,5,5,5-pentafluoro-2-pentenoate | C(#N)C(C(=O)OCC)=C(C(C(F)(F)F)(F)F)O | C8H6F5NO3
